US07498337B2
5-(2-fluorophenyl)-4-methyl-1H-pyrrole-3-carbaldehyde
By a similar operation as in Reference Example 15 and using [5-(2-fluorophenyl)-4-methyl-1H-pyrrol-3-yl]methanol (1.17 g), tetra-n-propylammonium perruthenate (101 mg), N-methylmorpholine N-oxide (1.01 g) and molecular sieves 4A powder (572 mg), the title compound was obtained as pale-pink crystals (yield 0.67 g, 58%).

reactant | [5-(2-fluorophenyl)-4-methyl-1H-pyrrol-3-yl]methanol | 1.17 g | FC1=C(C=CC=C1)C1=C(C(=CN1)CO)C | C12H12FNO
reactant | N-methylmorpholine N-oxide | 1.01 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | tetra-n-propylammonium perruthenate | 101 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-(2-fluorophenyl)-4-methyl-1H-pyrrole-3-carbaldehyde | FC1=C(C=CC=C1)C1=C(C(=CN1)C=O)C | C12H10FNO
